data/oMe_Silver.jsonl
{"reaction_id": "NR-222_1-c1ccccc1_2-CCCC_3-c1ccc(F)cc1_4-C","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(c1ccccc1)(C(O)(c1ccccc1)C(CCCC)(c1ccc(F)cc1)C)C(CCCC)(c1ccc(F)cc1)C"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](c1ccccc1)O[Mg]O[CH]C(c1ccccc1)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(c1ccccc1)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
{"reaction_id": "NR-105_1-Cl_2-C(=O)C_3-O[Si](C)(C)C(C)(C)C_4-N2CCOCC2_5-C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(N2CCOCC2)c(O[Si](C)(C)C(C)(C)C)c(C(=O)C)c(Cl)c1)\\C(=O)OC"],"products_smiles": ["c1c(C(=O)OC)[nH]c2c1c(N2CCOCC2)c(O[Si](C)(C)C(C)(C)C)c(C(=O)C)c2Cl"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(N2CCOCC2)c(O[Si](C)(C)C(C)(C)C)c(C(=O)C)c(Cl)c1)\\C(=O)OC","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "COC(=O)C1C=C2C(=[n]1)c(c(c(c2N2CCOCC2)O[Si](C)(C)C(C)(C)C)C(=O)C)Cl","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC)[nH]c2c1c(N2CCOCC2)c(O[Si](C)(C)C(C)(C)C)c(C(=O)C)c2Cl","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
